US06258829B1
Ethyl 2-methyl-6,7-dihydro-5H-cyclohepta[b]pyridine-3-carboxylate
In an atmosphere of argon, ethyl 9-chloro-2-methyl-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-3-carboxylate (3.35 g, 12.5 mmol) was dissolved in toluene (12.0 ml), and the solution was mixed with 1,8-diazabicyclo[5.4.0]-7-undecene (DBU) (2.9 ml, 18.9 mmol) at 0° C. and then heated under reflux for 23 hours. The solvent was evaporated under reduced pressure, and the thus obtained residue was dissolved in ethyl acetate, mixed with water and then extracted with ethyl acetate. The thus obtained organic layer was washed with water and saturated brine in that order and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the resulting residue was purified by a silica gel column chromatography (ether:hexane=1:2) to obtain the title compound (2.82 g, 97.5%) as pale yellow oil.

reactant | ethyl 9-chloro-2-methyl-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-3-carboxylate | 12.5 mmol, 3.35 g | ClC1CCCCC=2C1=NC(=C(C2)C(=O)OCC)C | C14H18ClNO2
reactant | 1,8-diazabicyclo[5.4.0]-7-undecene | 18.9 mmol, 2.9 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | toluene | 12.0 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 2-methyl-6,7-dihydro-5H-cyclohepta[b]pyridine-3-carboxylate | 2.82 g, 97.5% | CC1=C(C=C2C(=N1)C=CCCC2)C(=O)OCC | C14H17NO2
